US06242598B1
2-Chloro-4,6-diphenoxy-s-triazine
A 2-liter reaction flask equipped with a magnetic stirrer and a condenser is charged with 92.2 g (0.50 mol) of cyan uric chloride, 84 g (1.0 mol) of sodium bicarbonate and 400 mL of toluene. The suspension is brought to 50° C. and 94 g (1.0 mol) of phenol are added in small portions. The mixture is refluxed for ten hours and then allowed to cool to room temperature. Portions of water and ethyl acetate (300 mL each) are added and the mixture is then filtered. The phases are separated and the organic phase is dried over anhydrous magnesium sulfate. The solvent is removed under reduced pressure to afford 150 g of crude product. The crude product is twice recrystallized from toluene to yield 48.7 g of the title compound as a white powder melting at 117-121° C.

reactant | cyan uric chloride | 0.50 mol, 92.2 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | sodium bicarbonate | 1.0 mol, 84 g | C([O-])(O)=O.[Na+]
reactant | toluene | 400 mL | C1(=CC=CC=C1)C | C7H8
reactant | phenol | 1.0 mol, 94 g | C1(=CC=CC=C1)O | C6H6O
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 2-Chloro-4,6-diphenoxy-s-triazine | 48.7 g | ClC1=NC(=NC(=N1)OC1=CC=CC=C1)OC1=CC=CC=C1 | C15H10ClN3O2
